US09428452B2
Methyl 5-(N-(4-ethylphenyl)-N-isobutylsulfamoyl)-2-(2-morpholinoacetyl)benzoate
A solution of phenyltrimethylaminotribromide (100 mg, 0.266 mmol) in tetrahydrofuran (THF) (0.5 mL) was added dropwise over 5 minutes, to a solution of methyl 2-acetyl-5-(N-(4-ethylphenyl)-N-isobutylsulfamoyl)benzoate (105 mg, 0.251 mmol) in THF (1.5 mL) at room temperature, under nitrogen. The orange solution was stirred for 1 hour to give a yellow solution containing a white precipitate. Analysis showed major product to be the desired intermediate bromoketone. The precipitate was filtered off and the solution was treated with morpholine (0.066 mL, 0.754 mmol). The resulting suspension was stirred for 30 minutes and partitioned between ammonium chloride solution (10 mL) and ethyl acetate (2×5 mL). The dried (MgSO4) extract was evaporated to give the desired product (65 mg), as an orange gum, which was used directly in the next step. LCMS [LCMS1] Rt 1.06 min, m/z (ES+) 503 (M+H).

reactant | methyl 2-acetyl-5-(N-(4-ethylphenyl)-N-isobutylsulfamoyl)benzoate | 0.251 mmol, 105 mg | C(C)(=O)C1=C(C(=O)OC)C=C(C=C1)S(N(CC(C)C)C1=CC=C(C=C1)CC)(=O)=O | C22H27NO5S
reactant | bromoketone | BrC(=O)Br | CBr2O
reactant | morpholine | 0.754 mmol, 0.066 mL | N1CCOCC1 | C4H9NO
solvent | tetrahydrofuran | 0.5 mL | O1CCCC1 | C4H8O
solvent | THF | 1.5 mL | O1CCCC1 | C4H8O
product | Methyl 5-(N-(4-ethylphenyl)-N-isobutylsulfamoyl)-2-(2-morpholinoacetyl)benzoate | 65 mg | C(C)C1=CC=C(C=C1)N(S(=O)(=O)C=1C=CC(=C(C(=O)OC)C1)C(CN1CCOCC1)=O)CC(C)C | C26H34N2O6S
